US06949641B2
One process in the production of cefpodoxime proxetil may be carried out via acylation of 7-amino-3-methoxy-methyl-3-cephem-4-carboxylic acid-1-(isopropoxycarbonyloxy)ethyl-ester of formula with activated Z-2-(methoxyimino)-2-(2-formylaminothiazol-4-yl)-acetic acid to obtain 7-[2-(2-formylaminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid 1-(isopropoxycarbonyloxy)ethyl ester (N-formyl cefpodoxime proxetil) of formula

reactant | cefpodoxime proxetil | CC(C)OC(=O)OC(C)OC(=O)C1=C(CS[C@H]2N1C(=O)[C@H]2NC(=O)/C(=N\OC)/C3=CSC(=N3)N)COC | C21H27N5O9S2
reactant | 7-amino-3-methoxy-methyl-3-cephem-4-carboxylic acid-1-(isopropoxycarbonyloxy)ethyl-ester | C(C)(C)OC(=O)OC(C)OC(=O)C1=C(C(S[C@H]2N1C(C2N)=O)C)OC | C15H22N2O7S
reactant | Z-2-(methoxyimino)-2-(2-formylaminothiazol-4-yl)-acetic acid | CO\N=C(/C(=O)O)\C=1N=C(SC1)NC=O | C7H7N3O4S
product | 7-[2-(2-formylaminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid 1-(isopropoxycarbonyloxy)ethyl ester | C(C)(C)OC(=O)OC(C)OC(=O)C1=C(CS[C@H]2N1C(C2NC(\C(=N/OC)\C=2N=C(SC2)NC=O)=O)=O)COC | C22H27N5O10S2
